### ISSUE TITLE
simp (with beta/zeta disabled) and discrimination trees

### ISSUE THREAD

**Issue by leodemoura** [leanprover/lean4#2281]
We disabled beta, zeta, iota reduction in `simp`. However, there is a nasty interaction with the discrimination tree module.
Consider the following example:
```lean
example (h : a = b) : (fun x => a + x) 0 = b := by
  simp (config := { beta := false })
  -- h : a = b |- a = b    <<<< Goal here
  done
```
We requested beta reduction to be disabled, but `simp` performed indirectly using the discrimination tree module.
Note that the following example works as expected
```lean
example (h1 : a = b) (h2 : c = 0) : (fun x => a + x) c = b := by
  simp (config := { beta := false })
  -- h : a = b |- (fun x => a + x) c = b
  done
```
The issue is that the discrimination tree module retrieves rewriting rules modulo `whnf` with `[reducible]` setting. Then, when `simp` tries to retrieve rewriting rules for the term `(fun x => a + x) 0`, it finds `Nat.add_zero : a + 0 = a`. We need a flag in the discrimination tree modulo to control reduction when retrieving candidates. As an extra complication, we may still want to reduce `[reducible]` definitions, and beta-reduction here should be allowed.

The issue above may also cause performance issues.
